US08389524B2
(d) (1R)-1-[(4-Amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
A solution of phenylmethyl (1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)carbamate (1.848 g, 4.10 mmol) in ethanol at rt under argon was treated with palladium on carbon (10% paste) (0.462 g, 4.34 mmol) (20% w/w) and stirred under 1 atmosphere of hydrogen for 2 h, reaction mixture was filtered through a thin pad of Kielselguhr eluting with ethanol (100 ml). The filtrate was treated with palladium on carbon (10% paste) (0.462 g, 4.34 mmol) and stirred under 1 atm of hydrogen for 18 h. The reaction mixture was filtered through a thin pad of Kielselguhr eluting with ethanol (500 ml) and the filtrate was then evaporated to give the product as a yellow solid (1.294 g, 100%).

reactant | phenylmethyl (1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)carbamate | 4.10 mmol, 1.848 g | O=C1N2C=3N(C(CCC3C=C1)=O)C[C@H]2CN2CCC(CC2)(C)NC(OCC2=CC=CC=C2)=O | C25H30N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 4.34 mmol, 0.462 g | [Pd] | Pd
catalyst | palladium on carbon | 4.34 mmol, 0.462 g | [Pd] | Pd
product | (1R)-1-[(4-Amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 1.294 g, 100% | NC1(CCN(CC1)C[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O)C | C17H24N4O2
